** sch_path: /workspace/project/even_parity_generator/testbench/spice/tb_even_parity_gen_xnor_6t_buf.sch
**.subckt tb_even_parity_gen_xnor_6t_buf OUT_PARITY IN_0 IN_1 IN_2 IN_3 IN_4 IN_5 IN_6 IN_7
*.opin OUT_PARITY
*.ipin IN_0
*.ipin IN_1
*.ipin IN_2
*.ipin IN_3
*.ipin IN_4
*.ipin IN_5
*.ipin IN_6
*.ipin IN_7
x1 VDD 0 IN_0 IN_1 IN_2 IN_3 OUT_PARITY IN_4 IN_5 IN_6 IN_7 even_parity_gen_xnor_6t_buf
**** begin user architecture code

.include /workspace/project/even_parity_generator/testbench/spice/code/even_parity_gen_xnor_6t_buf.spice

**** end user architecture code
**.ends

* expanding   symbol:  schematic/even_parity_gen_xnor_6t_buf.sym # of pins=11
** sym_path: /workspace/project/even_parity_generator/schematic/even_parity_gen_xnor_6t_buf.sym
** sch_path: /workspace/project/even_parity_generator/schematic/even_parity_gen_xnor_6t_buf.sch
.subckt even_parity_gen_xnor_6t_buf VDD GND I0 I1 I2 I3 O0 I4 I5 I6 I7
*.iopin VDD
*.iopin GND
*.ipin I0
*.ipin I1
*.ipin I2
*.ipin I3
*.ipin I4
*.ipin I5
*.ipin I6
*.ipin I7
*.opin O0
x1 VDD I0 net1 I1 GND xnor_6t_buf
x2 VDD I2 net2 I3 GND xnor_6t_buf
x3 VDD I4 net3 I5 GND xnor_6t_buf
x4 VDD I6 net4 I7 GND xnor_6t_buf
x5 VDD net1 net6 net2 GND xnor_6t_buf
x6 VDD net3 net5 net4 GND xnor_6t_buf
x7 VDD net6 net7 net5 GND xnor_6t_buf
x8 VDD net7 O0 GND not_std
.ends


* expanding   symbol:  schematic/xnor_6t_buf.sym # of pins=5
** sym_path: /workspace/project/even_parity_generator/schematic/xnor_6t_buf.sym
** sch_path: /workspace/project/even_parity_generator/schematic/xnor_6t_buf.sch
.subckt xnor_6t_buf VDD A Y B GND
*.ipin A
*.ipin B
*.opin Y
*.iopin VDD
*.iopin GND
x1 VDD net1 A B GND xor_6t
x2 VDD net1 Y GND not_std
.ends


* expanding   symbol:  schematic/not_std.sym # of pins=4
** sym_path: /workspace/project/even_parity_generator/schematic/not_std.sym
** sch_path: /workspace/project/even_parity_generator/schematic/not_std.sch
.subckt not_std VDD A Y GND
*.ipin A
*.opin Y
*.iopin VDD
*.iopin GND
XM1 Y A VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0 mult=1
XM2 Y A GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
.ends


* expanding   symbol:  schematic/xor_6t.sym # of pins=5
** sym_path: /workspace/project/even_parity_generator/schematic/xor_6t.sym
** sch_path: /workspace/project/even_parity_generator/schematic/xor_6t.sch
.subckt xor_6t VDD Y A B GND
*.ipin A
*.opin Y
*.iopin VDD
*.iopin GND
*.ipin B
XM1 net1 A VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
XM2 net1 A GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM3 Y B A VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0 mult=1
XM4 Y B net1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM5 Y A B VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0 mult=1
XM6 Y net1 B GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
.ends

.GLOBAL VDD
.end
